US07875408B2
9-anthraldehyde (10 mmol, 2.06 g) and 9-acetylanthracene (10 mmol, 2.2 g) were combined in dry DMF under N2 and MeONa (28 mmol, 1.5 g) was added. The reaction mixture is stirred overnight. Then MeOH was added (60 mL) and the precipitate was filtered off and vacuum dried to afford 3.73 g of pure 1,3-di(anthracene-9-yl)-2-propene-1-one. Portion of it (2.5 mmol, 1 g) was suspended in a mixture of dioxane and MeOH (60 mL and 20 mL respectively) and heated to 75° C. at which point sodium borohydride (5.3 mmol, 200 mg) was added. The mixture was stirred for 5 min and 50 mL of water was added. After the mixture had cooled to ambient, the solids were filtered off, washed with water and vacuum dried affording 620 mg of the title product.

reactant | 9-anthraldehyde | 10 mmol, 2.06 g | C1=CC=CC2=CC3=CC=CC=C3C(=C12)C=O | C15H10O
reactant | 9-acetylanthracene | 10 mmol, 2.2 g | C(C)(=O)C=1C2=CC=CC=C2C=C2C=CC=CC12 | C16H12O
reactant | MeONa | 28 mmol, 1.5 g | CO[Na]
reactant | MeOH | CO | CH4O
solvent | DMF | CN(C)C=O | C3H7NO
product | 1,3-di(anthracene-9-yl)-2-propene-1-one | 3.73 g | C1=CC=CC2=CC3=CC=CC=C3C(=C12)C(C=CC=1C2=CC=CC=C2C=C2C=CC=CC12)=O | C31H20O
